US05631403
Preparation of N-hydroxyacetyl-N-isopropyl-(4-fluoroaniline)
In a 500 ml flask, 23.0 g (0.1 mol) of N-chloroacetyl-N-isopropyl-4-fluoroaniline and 11.7 g (0.11 mol) of sodium carbonate in 340 ml of solvent or solvent mixture are heated with stirring to reflux temperature (100° C.). The reaction is monitored by gas chromatography (sampling after in each case 1 hour). The results are compiled in the table which follows.

reactant | N-chloroacetyl-N-isopropyl-4-fluoroaniline | 0.1 mol, 23.0 g | ClCC(=O)N(C1=CC=C(C=C1)F)C(C)C | C11H13ClFNO
reactant | sodium carbonate | 0.11 mol, 11.7 g | C([O-])([O-])=O.[Na+].[Na+]
product | N-hydroxyacetyl-N-isopropyl-(4-fluoroaniline) | OCC(=O)N(C1=CC=C(C=C1)F)C(C)C | C11H14FNO2
